US08097617B2
Step 2.1: 2-Amino-5-bromo-isonicotinonitrile
A solution of 2-amino-isonicotinonitrile (10.0 g, 83.9 mmol) in DMF (20 mL) was cooled to −18° C. (ice/MeOH bath), treated with NBS (16.5 g, 92.3 mmol), and stirred at −18° C. for 1 h. The reaction mixture was diluted in AcOEt (500 mL) and washed with water (200 mL). The aqueous phase was separated and extracted with AcOEt (2×500 ml). The combined organic fractions were dried over Na2SO4, filtered and evaporated. The residue was purified by Combi-Flash Companion™ (Isco Inc.) column chromatography (SiO2; gradient elution, [hexane/DCM 1:1]/TBME 98:2→6:4) to yield the title compound (13.0 g, 65.6 mmol, 78%) as a pale yellow solid. MS: 199 [M+1]+; HPLC: AtRet=1.13; TLC: RF 0.39 (hexane/DCM/TBME 1:1:2).

reactant | 2-amino-isonicotinonitrile | 83.9 mmol, 10.0 g | NC=1C=C(C#N)C=CN1 | C6H5N3
reactant | NBS | 92.3 mmol, 16.5 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | AcOEt | 500 mL | CCOC(=O)C | C4H8O2
product | 2-Amino-5-bromo-isonicotinonitrile | 65.6 mmol, 13.0 g, 78% | NC=1C=C(C#N)C(=CN1)Br | C6H4BrN3
